US07217492B2
19.2 g of the resulting 4-cyclohexylthiophenyl diphenylsulfonium trifluoromethane sulfonate was dissolved in 100 g of methanol in a reaction flask. The mixture was fed into an ion-exchange chromatography (an ion-exchange resin: Shephadex R-QAE A-25, packing amount: 60 g, manufactured by Aldrich Corporation) to replace trifluoromethanesulfonate anions with chlorine ions. After evaporating methanol using an evaporator, the resulting residue was dissolved in 100 g of dichloromethane. 15 g of 30 wt % 2-(bicyclo[2.2.1]heptan-2-yl)-1,1,2,2-tetrafluoroethane sodium sulfonate aqueous solution was added. The mixture was stirred for one hour at room temperature and transferred to a separatory funnel, shaken, and allowed to stand still. The water layer was removed. 100 ml of distilled water was added and the mixture was shaken again and allowed to stand still. The water layer was removed. The resulting dichloromethane solution was dried with anhydrous magnesium sulfate and filtered. After evaporating dichloromethane from the dried solution, the residual liquid was dried under reduced pressure to obtain 20.1 g of 4-cyclohexylthiophenyl diphenylsulfonium 2-(bicyclo[2.2.1]heptan-2-yl)-1,1,2,2-tetrafluoroethanesulfonate.

reactant | 4-cyclohexylthiophenyl diphenylsulfonium trifluoromethane sulfonate | 19.2 g | FC(S(=O)(=O)[O-])(F)F.C1(CCCCC1)SC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F
reactant | chlorine | ClCl | Cl2
reactant | methanol | 100 g | CO | CH4O
product | 4-cyclohexylthiophenyl diphenylsulfonium 2-(bicyclo[2.2.1]heptan-2-yl)-1,1,2,2-tetrafluoroethanesulfonate | 20.1 g | C12C(CC(CC1)C2)C(C(S(=O)(=O)[O-])(F)F)(F)F.C2(CCCCC2)SC2=CC=C(C=C2)[S+](C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H25S2.C9H12F4O3S/c1-4-10-20(11-5-1)25-21-16-18-24(19-17-21)26(22-12-6-2-7-13-22)23-14-8-3-9-15-23;10-8(11,9(12,13)17(14,15)16)7-4-5-1-2-6(7)3-5/h2-3,6-9,12-20H,1,4-5,10-11H2;5-7H,1-4H2,(H,14,15,16)/q+1;/p-1
